US07994185B2
Step B: 4-[4-(3-Amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine
A solution of 2-propen-1-yl {3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate (220 mg, 0.515 mmol) in TBAF (1 mL, 1.0 mmol) in 1M THF was heated in a microwave reactor at 130° C. for 10 min. The crude reaction mixture was evaporated onto silica gel and chromatographed (1:9:90 NH4OH:MeOH:DCM in DCM 10-80%). The title compound was obtained as a white solid (100 mg, 56% yield). MS (ESI): 344.1 [M+H]+.

reactant | 2-propen-1-yl {3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate | 0.515 mmol, 220 mg | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C21H22FN5O2S
reactant | TBAF | 1.0 mmol, 1 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 4-[4-(3-Amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
